US06436915B1
Synthesis of 3-[N′-(3,5-Diaminopyrazol-4-ylidene)hydrazino]phenol
3-[N′-(3,5-Diaminopyrazol-4-ylidene)hydrazino]phenol was prepared using 93 mg (0.5 mmol) of 2-[(3-hydroxyphenyl)hydrazono]malononitrile, which was derived from 3-aminophenol (109 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. After heating for 4 hrs, a small amount of solid had formed. The solid was filtered off and the filtrate was concentrated to a gummy black solid. This material was dissolved in ethyl acetate and a small amount of gummy solid was precipitated from the solution by the addition of hexanes. The solid was removed by filtration and the filtrate was again concentrated. The resulting solid was purified by flash chromatography eluting with methylene chloride/ methanol (7:1) to yield 45 mg (33%) of the title compound as a black solid.

reactant | 2-[(3-hydroxyphenyl)hydrazono]malononitrile | 0.5 mmol, 93 mg | OC=1C=C(C=CC1)NN=C(C#N)C#N | C9H6N4O
reactant | 3-aminophenol | 1.0 mmol, 109 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3-[N′-(3,5-Diaminopyrazol-4-ylidene)hydrazino]phenol | 45 mg, 33% | NC1=NN=C(C1=NNC=1C=C(C=CC1)O)N | C9H10N6O
